US08685975B2
2-(4-Bromo-3,5-dimethoxyphenyl)furan was coupled with N,2-dimethoxy-N-methyl-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)acetamide according to the method used for the synthesis of Example 12. Purification by chromatography (50-80% EtOAc-hexanes) provided 1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxy-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)ethanone as a yellow foam (0.356 g, 40% yield). MS: m/z 513.2 [M+H]+.

reactant | 2-(4-Bromo-3,5-dimethoxyphenyl)furan | BrC1=C(C=C(C=C1OC)C=1OC=CC1)OC | C12H11BrO3
reactant | N,2-dimethoxy-N-methyl-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)acetamide | CON(C(C(C1=CC=C(C=C1)C=1OC(=NN1)C)OC)=O)C | C14H17N3O4
product | 1-(5-(4-bromo-3,5-dimethoxyphenyl)furan-2-yl)-2-methoxy-2-(4-(5-methyl-1,3,4-oxadiazol-2-yl)phenyl)ethanone | 0.356 g, 40% yield | BrC1=C(C=C(C=C1OC)C1=CC=C(O1)C(C(C1=CC=C(C=C1)C=1OC(=NN1)C)OC)=O)OC | C24H21BrN2O6
